US06468995B1
To a solution of diphenylmethyl 7β-formamido-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate (13.70 g, 26.5 m mol) in methanol (65 ml) was added dropwise conc. HCl (11.0 ml) at room temperature and the mixture was stirred at the same temperature for 2.8 hours. The mixture was poured into a mixture of ethyl acetate and ice water and adjusted to pH 7 by addition of 5N NaOH aq. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with ethyl acetate to give diphenylmethyl 7β-amino-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate (5.16 g).

reactant | diphenylmethyl 7β-formamido-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate | 13.70 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O4S2
reactant | HCl | 11.0 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaOH | 5N | [OH-].[Na+]
solvent | methanol | 65 ml | CO | CH4O
product | diphenylmethyl 7β-amino-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate | 5.16 g | N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H23N3O3S2
